US08193378B2
To a solution of ethyl (1-methyl-1,2,3,6-tetrahydropyridin-4-yl)acetate (2.05 g) in dichloroethane (14 mL) was added 1-chloroethyl-chloroformate (1.5 mL) at 0° C. The reaction liquid was heated and refluxed for 2.5 hours, and then concentrated under reduced pressure. The residue was dissolved in MeOH (14 mL), and heated and refluxed for 1 hour. After concentration under reduced pressure, the residue was purified by amino column chromatography (chloroform:methanol=100:0 to 80:20) to obtain ethyl 1,2,3,6-tetrahydropyridin-4-ylacetate (130 mg) as a brown liquid.

reactant | ethyl (1-methyl-1,2,3,6-tetrahydropyridin-4-yl)acetate | 2.05 g | CN1CCC(=CC1)CC(=O)OCC | C10H17NO2
reactant | 1-chloroethyl-chloroformate | 1.5 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloroethane | 14 mL | ClC(C)Cl | C2H4Cl2
product | ethyl 1,2,3,6-tetrahydropyridin-4-ylacetate | 130 mg | N1CCC(=CC1)CC(=O)OCC | C9H15NO2
